US08071592B2
7-(Methyloxy)-1-(2-propen-1-yl)pyrido[2,3-b]pyrazin-2(1H)-one (846 mg, 3.900 mmol) was dissolved in 1,4-dioxane (20 ml) and water (10 ml). Sodium periodate (20.09 g, 9.75 mmol) was added, followed by osmium tetroxide (0.83 ml of 4% aqueous solution). The mixture stirred at rt for 4 h, and then extracted with 20% MeOH/DCM (3×200 ml). The organic extracts were combined, dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure to give [7-(methyloxy)-2-oxopyrido[2,3-b]pyrazin-1(2H)-yl]acetaldehyde (existing mostly as the methyl hemiacetal) as an impure brown solid (969 mg, 113%).

reactant | 7-(Methyloxy)-1-(2-propen-1-yl)pyrido[2,3-b]pyrazin-2(1H)-one | 3.900 mmol, 846 mg | COC1=CC2=C(N=CC(N2CC=C)=O)N=C1 | C11H11N3O2
reactant | Sodium periodate | 9.75 mmol, 20.09 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
catalyst | osmium tetroxide | 0.83 ml | [Os](=O)(=O)(=O)=O
product | [7-(methyloxy)-2-oxopyrido[2,3-b]pyrazin-1(2H)-yl]acetaldehyde | COC1=CC2=C(N=CC(N2CC=O)=O)N=C1 | C10H9N3O3
